US03941782
4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[4-(piperidino)-butyryloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride
5.0 g. (14.6 mmoles) of 4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran, 3.14 g. (15.2 mmoles) of dicyclohexylcarbodiimide and 3.15 g. (15.2 mmoles) of γ-piperidinobutyric acid hydrochloride (m.p. 190°-192°), Cruickshank & Sheehan J. Am. Chem. Soc. 83, 2891 (1961), were combined with 250 ml. of methylene chloride and stirred for a total of 40 hours at room temperature. The insoluble by-product of dicyclohexylurea was separated by filtration and the methylene chloride was removed using a rotary evaporator. The brown residue was treated with approximately 75 ml. of benzene, and filtered to remove a small amount of insoluble material. The benzene was evaporated and the brown, viscous residue was triturated with about 200 ml. of ether to give 4.3 g. of crude product as a light brown solid, m.p. 174°-176°C. Recrystallization from benzene gave a total of 3.5 g. (45%) of product as colorless crystals, m.p. 174°-176°C. The infrared and nuclear magnetic resonance spectra were in agreement with the proposed structure.

reactant | 4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran | 14.6 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C23H34O2
reactant | dicyclohexylcarbodiimide | 15.2 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | γ-piperidinobutyric acid hydrochloride | 15.2 mmoles | Cl.N1(CCCCC1)CCCC(=O)O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[4-(piperidino)-butyryloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCCCC2)=O)C | InChI=1S/C32H49NO3.ClH/c1-6-7-9-14-23(2)24(3)25-21-28(35-30(34)17-13-20-33-18-10-8-11-19-33)31-26-15-12-16-27(26)32(4,5)36-29(31)22-25;/h21-24H,6-20H2,1-5H3;1H
